US05348964
3-(1-Piperidyl)propyl isopentyl sulfide, hydrochloride salt
Mix 3-chloropropyl isopentyl sulfide (1.0 g, 5.5 mmol) and piperidine (3.3 mL, 33 mmol) and heat at 125° C. for 2 hours. Cool to room temperature and partition between 50% sodium hydroxide and ethyl ether. Separate the organic phase, wash the aqueous phase with ethyl ether (2×30 mL), combine the organic phases and dry (MgSO4). Evaporate the solvent in vacuo to yield 1.12 g (89%). Dissolve the product (1.0 g) in ethyl ether (100 mL) and treat with anhydrous hydrochloric acid. Collect the resulting yellow solid by vacuum filtration, recrystallize (ethyl acetate) and dry to yield 0.723 g of the title compound as white crystals; mp 155°-8° C. 438E-83

reactant | 3-chloropropyl isopentyl sulfide | 5.5 mmol, 1.0 g | C(CC(C)C)SCCCCl | C8H17ClS
reactant | piperidine | 33 mmol, 3.3 mL | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-(1-Piperidyl)propyl isopentyl sulfide, hydrochloride salt | 0.723 g | Cl.C(CC(C)C)SCCCN1CCCCC1 | InChI=1S/C13H27NS.ClH/c1-13(2)7-12-15-11-6-10-14-8-4-3-5-9-14;/h13H,3-12H2,1-2H3;1H
